US07030139B2
23E: 1-(cyclopropylmethyl)-2-[(5-ethoxy-2-pyridinyl)methyl]-1H-benzimidazole-5-carboxylic acid.
To a solution 1-(cyclopropylmethyl)-2-[(5-ethoxy-2-pyridinyl)methyl]-1H-benzimidazole-5-carbonitrile (400 mg, 1.203 mmol) in 1:1 EtOH:H2O (12 mL) was added KOH (269 mg, 4.81 mmol). The resulting mixture was refluxed for 36 h. The mixture was acidified with 1 N HCl to pH˜6.0. The precipitate (397 mg, 94%) was used in the subsequent step without further purification. MS (ESI) (M+H)+=352.

reactant | 1-(cyclopropylmethyl)-2-[(5-ethoxy-2-pyridinyl)methyl]-1H-benzimidazole-5-carbonitrile | 1.203 mmol, 400 mg | C1(CC1)CN1C(=NC2=C1C=CC(=C2)C#N)CC2=NC=C(C=C2)OCC | C20H20N4O
reactant | EtOH | CCO | C2H6O
reactant | KOH | 4.81 mmol, 269 mg | [OH-].[K+]
reactant | HCl | 1 N | Cl | ClH
solvent | H2O | 12 mL | O | H2O
product | 1-(cyclopropylmethyl)-2-[(5-ethoxy-2-pyridinyl)methyl]-1H-benzimidazole-5-carboxylic acid | C1(CC1)CN1C(=NC2=C1C=CC(=C2)C(=O)O)CC2=NC=C(C=C2)OCC | C20H21N3O3
